US08258175B2
4-trimethylsilanylethoxymethoxy-benzonitrile
To a solution of 1.63 ml (9.23 mmol) of SEM-Cl in 10 ml of dry DCM were added 1.00 g (8.39 mmol) of 4-hydroxy benzonitrile, 103 mg (0.84 mmol) of DMAP and 2.34 ml (16.8 mmol) of Et3N, stirring at RT under N2. After stirring overnight, 10 ml of ether were added and the solids filtered off. The filtrate was evaporated and the product purified by flash chromatography (20% ethyl acetate in petrol), obtaining 945 mg (3.79 mmol, 48%) of a colourless oil.

reactant | SEM-Cl | 9.23 mmol, 1.63 ml | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | 4-hydroxy benzonitrile | 8.39 mmol, 1.00 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | Et3N | 16.8 mmol, 2.34 ml | CCN(CC)CC | C6H15N
reactant | ether | 10 ml | CCOCC | C4H10O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.84 mmol, 103 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-trimethylsilanylethoxymethoxy-benzonitrile | 3.79 mmol, 945 mg, 48% | C[Si](C)(C)CCOCOC1=CC=C(C#N)C=C1 | C13H19NO2Si
